US05298492
At 10°-15° C., add benzylchloroformate (15.5 mL) dropwise to a heterogeneous mixture of 3-methanesulfonamido-D,L-phenylalanine ethyl ester (25.00 g) and triethylamine (15 mL) in dioxane (400 mL). Warm to room temperature, stir overnight, and remove the dioxane in vacuo. Partition the mixture between EtOAc (200 mL)/water (500 mL). Wash the EtOAc solution with water (500 mL), 1N HCl (500 mL), 5% NaHCO3 (500 mL), and brine (500 mL). Concentrate the dried (MgSO4) EtOAc solution in vacuo to a residue. Chromatograph the residue on silica gel (40μ, 2200 mL) using EtOAc:hexane (3:7) as eluant to give N-benzyloxycarbonyl-3-methanesulfonamido-D,L-phenylalanine ethyl ester.

reactant | benzylchloroformate | 15.5 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | 3-methanesulfonamido-D,L-phenylalanine ethyl ester | 25.00 g | C(C)OC(C(N)CC1=CC(=CC=C1)NS(=O)(=O)C)=O | C12H18N2O4S
reactant | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | N-benzyloxycarbonyl-3-methanesulfonamido-D,L-phenylalanine ethyl ester | C(C)OC(C(NC(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)NS(=O)(=O)C)=O | C20H24N2O6S
